US08202858B2
1-(4-Hexyl-piperazin-1-yl)-3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propan-1-one
A solution of 1-bromohexane (0.83 mg, 0.005 mmol) in DMF (0.05 ml) was added to a solution of 3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-1-piperazin-1-yl-propan-1-one from Example E47 (2.29 mg, 0.005 mmol) in DMF (0.05 ml) and triethylamine (0.0021 ml). The mixture was stirred for 20 h at room temperature then solvents were removed in vacuo to yield the title compound. (ESI)+: [M+H]+=543.4

reactant | 1-bromohexane | 0.005 mmol, 0.83 mg | BrCCCCCC | C6H13Br
reactant | 3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-1-piperazin-1-yl-propan-1-one | CC1=C(C=CC(=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)CCC(=O)N2CCNCC2 | C26H30N6O2
solvent | DMF | 0.05 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.05 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.0021 ml | C(C)N(CC)CC | C6H15N
product | 1-(4-Hexyl-piperazin-1-yl)-3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propan-1-one | C(CCCCC)N1CCN(CC1)C(CCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C32H42N6O2
